US05571880
The compound 2,7-di(1-cyclohex-1-enyl)fluorene can be prepared by first forming a Grignard reagent from 2,7-diiodofluorene and magnesium and bromoethane in THF by heating for several days in a Schlenk tube at about 60°-90° C. Then cyclohexanone is added. After acidic workup in hot toluene, the 2,7-dicyclohexenyl fluorene is obtained.

reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,7-dicyclohexenyl fluorene | C1(=CCCCC1)C1=CC=2CC3=CC(=CC=C3C2C=C1)C1=CCCCC1 | C25H26
